* probe540p: POSITIVE-range crossing probe, code 540 on C169-final. The analog
* c_p/c_n gap closes ~0.475 mV per mV of vv and extrapolates to balance near
* vv ~ +230 mV. Sweep vv = +100..+400 mV in 20 mV steps, record digital
* (pbit_raw_core/pbit_out_core) and analog (c_p, c_n) at t=50ns.
.include /tmp/C169-final.spice
.include /volume/user/workspace/2026-08-03_p1-cml-div2-cml-div4-c11-iso-buffer/C156-ISOBUF-PBIT_OUT.spice
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_wcs
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerDIO.lib dio_tt
VCC_HBT VCC_HBT 0 DC 2.500
VDD VDD 0 DC 1.200
VBUF_VDD VDD_BUF 0 DC 1.200
VCLK_P CLK_P 0 PULSE(0 1.2 0 50p 50p 400p 1000p)
VCLK_N CLK_N 0 PULSE(1.2 0 0 50p 50p 400p 1000p)
VTRIM_P TRIM_P 0 DC 1.245
VTRIM_N TRIM_N 0 DC 1.245
VCODE code 0 DC 0.0
VEDP xcomp.e_dac_p 0 DC 0.687
VEDN xcomp.e_dac_n 0 DC 0.687
VIN_P IN_P 0 DC 1.245
EIN_N IN_N 0 VALUE {2.49 - v(IN_P)}
XCOMP pbit_out_core pbit_raw_core clk_replica IN_P IN_N CLK_P CLK_N TRIM_P TRIM_N VCC_HBT VDD VSS code p1_comparator
XISO pbit_out_core PBIT_OUT VDD_BUF VSS iso_buf_pbit_out
CLOAD PBIT_OUT 0 210f

VVSS VSS 0 DC 0
VSUB sub! 0 DC 0
.options reltol=1e-3 abstol=1e-12 vntol=1e-6 gmin=1e-14 method=trapezoidal itl4=2000
IKICK2 0 xcomp.c_p1_comp PWL(0 0 1n 0 1.1n 1m 8n 1m 8.2n 0)
.nodeset v(xcomp.c_p1_comp)=0.85 v(xcomp.c_p2_comp)=1.52463 v(xcomp.c_p)=1.78656 v(xcomp.c_n)=1.80281 v(xcomp.e_track)=0.62797 v(xcomp.ef_p)=1.00128 v(xcomp.ef_n)=1.01148 v(pbit_raw)=1.2 v(pbit_out)=7.52874e-08 v(IN_P)=1.245 v(IN_N)=1.245 v(TRIM_P)=1.245 v(TRIM_N)=1.245 v(CLK_P)=0 v(CLK_N)=1.2
.control
alter VCODE dc 5.400000
let vv = 100.0
while vv <= 400.0001
  alter VIN_P dc {1.245 + $&vv/2000}
  tran 0.05n 50n
  let nn = length(v(pbit_raw_core))
  let raw = v(pbit_raw_core)[nn-1]
  let out = v(pbit_out_core)[nn-1]
  let cp  = v(xcomp.c_p)[nn-1]
  let cn  = v(xcomp.c_n)[nn-1]
  echo "P540P" $&vv $&raw $&out $&cp $&cn
  destroy all
  let vv = vv + 20.0
end
quit
.endc
.end
