* probe540w: WIDENED crossing locator for code 540 on the current C169-final
* circuit (same header as /tmp/val540.cir, INCLUDING the VEDP/VEDN ties).
* Sweep vv = -400 .. +200 mV in 5 mV steps, echo vv, v(pbit_raw_core)[last],
* v(pbit_out_core)[last]. Previous probes (probe540/540b) found v(pbit_raw_core)
* LOW across -45..+50 mV; the HIGH side is expected at more-negative offsets.
.include /tmp/C169-final.spice
.include /volume/user/workspace/2026-08-03_p1-cml-div2-cml-div4-c11-iso-buffer/C156-ISOBUF-PBIT_OUT.spice
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_wcs
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerDIO.lib dio_tt
VCC_HBT VCC_HBT 0 DC 2.500
VDD VDD 0 DC 1.200
VBUF_VDD VDD_BUF 0 DC 1.200
VCLK_P CLK_P 0 PULSE(0 1.2 0 50p 50p 400p 1000p)
VCLK_N CLK_N 0 PULSE(1.2 0 0 50p 50p 400p 1000p)
VTRIM_P TRIM_P 0 DC 1.245
VTRIM_N TRIM_N 0 DC 1.245
VCODE code 0 DC 0.0
VEDP xcomp.e_dac_p 0 DC 0.687
VEDN xcomp.e_dac_n 0 DC 0.687
VIN_P IN_P 0 DC 1.245
EIN_N IN_N 0 VALUE {2.49 - v(IN_P)}
XCOMP pbit_out_core pbit_raw_core clk_replica IN_P IN_N CLK_P CLK_N TRIM_P TRIM_N VCC_HBT VDD VSS code p1_comparator
XISO pbit_out_core PBIT_OUT VDD_BUF VSS iso_buf_pbit_out
CLOAD PBIT_OUT 0 210f

VVSS VSS 0 DC 0
VSUB sub! 0 DC 0
.options reltol=1e-3 abstol=1e-12 vntol=1e-6 gmin=1e-14 method=trapezoidal itl4=2000
IKICK2 0 xcomp.c_p1_comp PWL(0 0 1n 0 1.1n 1m 8n 1m 8.2n 0)
.nodeset v(xcomp.c_p1_comp)=0.85 v(xcomp.c_p2_comp)=1.52463 v(xcomp.c_p)=1.78656 v(xcomp.c_n)=1.80281 v(xcomp.e_track)=0.62797 v(xcomp.ef_p)=1.00128 v(xcomp.ef_n)=1.01148 v(pbit_raw)=1.2 v(pbit_out)=7.52874e-08 v(IN_P)=1.245 v(IN_N)=1.245 v(TRIM_P)=1.245 v(TRIM_N)=1.245 v(CLK_P)=0 v(CLK_N)=1.2
.control
alter VCODE dc 5.400000
let vv = -400.0
while vv <= 200.0001
  alter VIN_P dc {1.245 + $&vv/2000}
  tran 0.05n 50n
  let nn = length(v(pbit_raw_core))
  let oo = v(pbit_raw_core)[nn-1]
  let out_core = v(pbit_out_core)[nn-1]
  echo "PROBE 540" $&vv $&oo $&out_core
  destroy all
  let vv = vv + 5.0
end
quit
.endc
.end
